US04725601
A solution of 8-benzyloxy-3-(2-propynyloxymethyl)-2-methylimidazo[1,2-a]pyridine hydrochloride (35.5 g) in hot water (700 ml) was neutralized with aqueous sodium hydroxide solution and extracted with methylene chloride. The extract was washed with water, dried over magnesium sulfate, treated with activated charcoal, and evaporated in vacuo. The residual solid was recrystallized from a mixture of methylene chloride and n-hexane to give 8-benzyloxy-3-(2-propynyloxymethyl)-2-methylimidazo[1,2-a]pyridine (26.03 g).

reactant | 8-benzyloxy-3-(2-propynyloxymethyl)-2-methylimidazo[1,2-a]pyridine hydrochloride | 35.5 g | Cl.C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)COCC#C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 700 ml | O | H2O
product | 8-benzyloxy-3-(2-propynyloxymethyl)-2-methylimidazo[1,2-a]pyridine | 26.03 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)COCC#C | C19H18N2O2
